US20010027196A1
2-Amino-4-(3,5-dimethyl-pyridin-2-ylmethoxy)-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile, 3,5-dimethyl-2-pyridinemethanol and DBU in DME. ES-MS m/e (%): 336 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1OC(=CC1)C | C11H10N4O2S
reactant | 3,5-dimethyl-2-pyridinemethanol | CC=1C(=NC=C(C1)C)CO | C8H11NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(3,5-dimethyl-pyridin-2-ylmethoxy)-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=NC=C(C=C1C)C)C#N)C=1OC(=CC1)C | C18H17N5O2
